US05166206
ETHYL 3-OXOHEPTANOATE
A two liter, three neck, round bottom flask equipped with a mechanical stirrer was charged with 50 g ethyl hydrogen malonate, 875 mL dry THF, and a few milligrams of 1,10-phenanthroline as indicator, under dry nitrogen. The stirred mixture was cooled to -78° C. To this was added 308 mL 2.5M n-butyllithium in hexanes over 30 minutes until a brown color persisted several minutes. The mixture was warmed to 0° C. for ~30 minutes then was cooled to -78° C. again. To this was added 22.5 mL valeroyl chloride in 25 mL THF over 15 minutes. The mixture was then warmed to room temperature, stirred 15 minutes, and acidified with ~150 mL 5% HCl. The mixture was extracted 3 times with ether. The combined organic material was washed twice with saturated NaHCO3 solution and twice with brine, dried over Na2SO4, stripped of solvent in vacuo, and distilled at ~15 Torr with the title compound distilling at 80°-83° C. The title compound was isolated as a clear oil, 21.4 g, 66% yield. Rf 0.30 in 7% EtOAc/hexane, visualized by UV and ninhydrin stain; 1H-NMR (250 MHz, CDCl3): δ4.19 (q, 2H), 3.44 (s, 2H), 2.54 (3 line m, 2H), 1.59 (m, 2H), 1.30 (m, 2H), 1.28 (t, 3H), 0.90 (t, 3H).

reactant | ethyl hydrogen malonate | 50 g | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | 1,10-phenanthroline | a few milligrams | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | n-butyllithium | 2.5M, 308 mL | C(CCC)[Li]
reactant | valeroyl chloride | 22.5 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | HCl | ~150 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 875 mL | C1CCOC1 | C4H8O
product | ETHYL 3-OXOHEPTANOATE | 66% yield | O=C(CC(=O)OCC)CCCC | C9H16O3
